US09062028B2
Step D. 7-Bromo-3-(4-methoxybenzyl)-3,7b-dihydro-1H-cyclopropa[c]quinolin-2(1aH)-one
To a suspension of sodium hydride (136 mg, 3.40 mmol) in DMSO (5 mL) at room temperature was added trimethylsulfoxonium iodide (661 mg, 3.00 mmol) slowly under nitrogen. The reaction mixture was stirred at room temperature for 1 h, and then 5-bromo-1-(4-methoxybenzyl)quinolin-2(1H)-one (689 mg, 2.00 mmol) in 1 mL DMSO was added. Upon completion of addition, the reaction mixture was stirred at room temperature for 2 h, and then heated to 90° C. for 2 d. After cooling to room temperature, the reaction mixture was quenched with water and extracted with EtOAc. The combined organic layer was washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated. The resulting residue was purified by flash chromatography (0 to 30% ethyl acetate:hexanes) to afford the title compound (330 mg, 45% yield) as a white powder. LCMS, [M+H]+=358.0. 1H NMR (400 MHz, CDCl3) δ 7.21 (d, J=7.7 Hz, 1H), 7.08 (d, J=8.2 Hz, 2H), 6.91 (t, J=8.0 Hz, 1H), 6.85-6.75 (m, 3H), 4.97-5.25 (m, 2H), 3.75 (s, 3H), 2.90 (td, J=8.1, 5.2 Hz, 1H), 2.40 (ddd, J=9.6, 8.0, 4.9 Hz, 1H), 1.74 (td, J=9.1, 4.4 Hz, 1H), 0.69 (q, J=4.8 Hz, 1H).

reactant | sodium hydride | 3.40 mmol, 136 mg | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 3.00 mmol, 661 mg | [I-].C[S+](=O)(C)C
reactant | 5-bromo-1-(4-methoxybenzyl)quinolin-2(1H)-one | 2.00 mmol, 689 mg | BrC1=C2C=CC(N(C2=CC=C1)CC1=CC=C(C=C1)OC)=O | C17H14BrNO2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 7-Bromo-3-(4-methoxybenzyl)-3,7b-dihydro-1H-cyclopropa[c]quinolin-2(1aH)-one | 330 mg, 45% yield | BrC=1C=2C3C(C(N(C2C=CC1)CC1=CC=C(C=C1)OC)=O)C3 | C18H16BrNO2
